US06156240
100 gms of boric acid are heated to 160° C. to 200° C. until three mols of water is removed per molecule thereby producing boron oxide (B2O3). The powdered boric oxide is slowly added to 100 gms of aqueous ammonia containing 25 % ammonia while agitating and keeping the temperature below the temperature wherein the ammonia evaporates from the water. Increase pressure may also be used to prevent the loss of ammonia from the water and the ammonia may be added to the water in a gaseous form. The mixture is allowed to react for 1-4 hours thereby producing a mixture of monoammonium diborate, diammonium dibromate, polyammonium dibromate and ammonium salt of boric acid. The mixture is dried and the ammonium salt of boric acid condensates to form diammonium diborate. The mixture is pulverized into a fine powder.

reactant | boric acid | 100 gms | B(O)(O)O | BH3O3
reactant | water | three mols | O | H2O
reactant | monoammonium diborate | B([O-])(O)OB(O)O.[NH4+]
reactant | diammonium dibromate | Br(=O)(=O)[O-].Br(=O)(=O)[O-].[NH4+].[NH4+]
product | diammonium diborate | B([O-])([O-])OB(O)O.[NH4+].[NH4+] | InChI=1S/B2H2O5.2H3N/c3-1(4)7-2(5)6;;/h3-4H;2*1H3/q-2;;/p+2
